US05646126
2,3,5,6-Tetrafluorophenyl trifluoroacetate (6).
A mixture of 2,3,5,6-tetrafluorophenol (55.2 g, 0.33 mol), trifluoroacetic anhydride (60 mL, 0.42 mol) and boron trifluoride etherate (0.5 mL) was refluxed for 16 hr. Trifluoroacetic anhydride and trifluoroacetic acid were removed by distillation at atmospheric pressure. The trifluoroacetic anhydride fraction (bp 40° C.) was returned to the reaction mixture along with 0.5 mL of boron trifluoride etherate, and the mixture was refluxed for 24 hr. This process was repeated two times to ensure complete reaction. After distillation at atmospheric pressure, the desired product (6) was collected at 62° C./45 mm (45° C./18 mm) as a colorless liquid: yield =81.3 g (93%); d=1.52 g/mL; nD21 =1.3747; IR (CHCl3) 3010, 1815, 1525, 1485, 1235, 1180, 1110, and 955 cm-1. Anal. Calcd for C8HF7O2 : C, 36.66; H, 0.38; F, 50.74. Found: C, 36.31; H, 0.43; F, 50.95.

reactant | 2,3,5,6-tetrafluorophenol | 0.33 mol, 55.2 g | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | trifluoroacetic anhydride | 0.42 mol, 60 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | boron trifluoride etherate | 0.5 mL | B(F)(F)F.CCOCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2,3,5,6-Tetrafluorophenyl trifluoroacetate | FC(C(=O)OC1=C(C(=CC(=C1F)F)F)F)(F)F | C8HF7O2
